US09353107B2
Step-ii: 3-(1-phenethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(1-phenethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (200 mg, 0.284 mmol) was deprotected in TFA/DCM (2/5 ml) to afford 175 mg (86.2% yield) of the titled compound. MS: m/z=603.2 (M+1).

reactant | tert-butyl 4-(4-(3-(1-phenethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.284 mmol, 200 mg | C(CC1=CC=CC=C1)N1N=CC(=C1)C1=CN(C2=NC=C(C=C21)C2=CC=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=C(C)C=C2 | C40H42N6O4S
solvent | TFA DCM | 2/5 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-(1-phenethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 175 mg, 86.2% yield | C(CC1=CC=CC=C1)N1N=CC(=C1)C1=CN(C2=NC=C(C=C21)C2=CC=C(C=C2)N2CCNCC2)S(=O)(=O)C2=CC=C(C)C=C2 | C35H34N6O2S
